US06162819
5-Amino-1-benzyl-3-(5-methoxycarbonyl-2-furyl)indazole:
0.9 g (2.4 mmol) of 1-benzyl-3-(5-methoxycarbonyl-2-furyl)-5-nitroindazole were dissolved in 100 ml of methanol/THF (1:1) by gentle warming, a solution of 2.5 g (14.4 mmol) of sodium dithionite in 50 ml of water was added and the mixture was stirred at RT for 16 h. For work-up, the mixture was concentrated and the residue was chromatographed over silica gel using dichloromethane/methanol (98.5:1.5). This gave 140 mg (17%) of the title compound. m.p.: 195-196° C.

reactant | 1-benzyl-3-(5-methoxycarbonyl-2-furyl)-5-nitroindazole | 2.4 mmol, 0.9 g | C(C1=CC=CC=C1)N1N=C(C2=CC(=CC=C12)[N+](=O)[O-])C=1OC(=CC1)C(=O)OC | C20H15N3O5
reactant | sodium dithionite | 14.4 mmol, 2.5 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol THF | 100 ml | CO.C1CCOC1
solvent | water | 50 ml | O | H2O
product | 5-Amino-1-benzyl-3-(5-methoxycarbonyl-2-furyl)indazole | NC=1C=C2C(=NN(C2=CC1)CC1=CC=CC=C1)C=1OC(=CC1)C(=O)OC | C20H17N3O3
